US07449475B2
N-Methyl-2-[(2S)-oxiran-2-ylmethoxy]benzamide
A mixture of (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate (388.5 mg, 1.50 mmol), 2-hydroxy-N-methylbenzamide (226.5 mg, 1.50 mmol) and cesium carbonate (586 mg, 1.80 mmol) in dimethylformamide (6 mL) was kept on stirring at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic phase was dried over sodium sulphate, Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (0-50% ethyl acetate in petroleum ether) to give the subtitled compound (284 mg).

reactant | (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate | 1.50 mmol, 388.5 mg | O1[C@@H](C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
reactant | 2-hydroxy-N-methylbenzamide | 1.50 mmol, 226.5 mg | OC1=C(C(=O)NC)C=CC=C1 | C8H9NO2
reactant | cesium carbonate | 1.80 mmol, 586 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | N-Methyl-2-[(2S)-oxiran-2-ylmethoxy]benzamide | 284 mg | CNC(C1=C(C=CC=C1)OC[C@H]1OC1)=O | C11H13NO3
